US09284379B2
Anti-FGFR4 Antibodies 10F10 and 9A5 Inhibit FGF1-Induced FGFR4 Tyrosine Phosphorylation
1.5×106 L6-FGFR4 cells were seeded in a 10-cm culture dishes and the following day starved for 24 hours in serum-free medium. Then, cells were incubated with antibodies 10F10 or 9A5 at 10 μg/ml for 1 hour and stimulated with 10 ng/ml FGF1 (R&D Systems, x) for 10 minutes. Cells were scraped off in 1 ml lysis buffer (50 mM Tris-HCl, pH 7.4, 1% Triton-X-100, 150 mM NaCl, 1 mM EDTA, 1 mM PMSF, aprotinin/leupeptin, pepstatin 1 μg/ml each, 1 mM Na3VO4, 1 mM NaF) on ice and centrifuged for 10 minutes at 10,000×g, 4° C. 1 ml of the supernatant were incubated with 20 μl of a suspension of protein A-sepharose beads and 1 μg of the polyclonal anti-FGFR4 antibody C16 (Santa Cruz) on a rotator wheel at 4° C. over night. The beads were washed three times with HNTG buffer (20 mM HEPES pH 7.5, 150 mM NaCl, 0.1% Triton-X-100, 10% glycerol) and boiled in 40 μl Laemmli buffer. After SDS PAGE, proteins were blotted onto a nitrocellulose membrane, which was subsequently blocked and incubated over night with anti-phospho-tyrosine antibody 4G10 (Upstate). After 3 washes, the membrane was incubated in HRP-coupled secondary antibody for 2 hours at room temperature and washed gain 3 times. Detection was done using the ECL system (GE Healthcare) (FIG. 3).

reactant | Tris-HCl | 50 mM | C(C(CO)(CO)N)O.Cl
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | NaCl | 150 mM | [Na+].[Cl-]
reactant | EDTA | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | PMSF | 1 mM | C1=CC=C(C=C1)CS(=O)(=O)F | C7H7FO2S
reactant | leupeptin | CC(C)C[C@@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCN=C(N)N)C(=O)O)NC(=O)C | C20H38N6O5
reactant | pepstatin | C[C@@H](C(=O)N[C@@H](CC(C)C)[C@H](CC(=O)O)O)NC(=O)C[C@@H]([C@H](CC(C)C)NC(=O)[C@H](C(C)C)NC(=O)[C@H](C(C)C)NC(=O)CC(C)C)O | C34H63N5O9
reactant | NaF | 1 mM | [F-].[Na+]
product | Tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
